US06831080B2
Step B: 7-(1-Hydroxyiminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester
A solution of 7-acetyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (1.2 g, 4.35 mmol) in EtOH was treated with NH2OH.HCl (0.57 g, 8 mmol). The resulting solution was stirred at 23° C. for 3 h in presence of Amberlist A-21 (2.0 g). The mixture was filtered and the solvent was evaporated. The residue was dissolved in EtOAc, washed with aqueous NaHCO3 and then brine. After drying (MgSO4), the organic layer was evaporated and the crude oxime was purified by chromatography (SiO2, 10-25% EtOAc in hexane) to give 1.08 g (86%) of the title compound as a white solid (m.p: 134-37° C.).

reactant | 7-acetyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 4.35 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(C)=O | C16H21NO3
reactant | NH2OH.HCl | 8 mmol, 0.57 g | NO.Cl
solvent | EtOH | CCO | C2H6O
product | 7-(1-Hydroxyiminoethyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 1.08 g, 86% | C(C)(C)(C)OC(=O)N1CCCC2=CC=C(C=C12)C(C)=NO | C16H22N2O3
